US07842685B2
Synthesized from 4-(5-(1-(4-(benzyloxy)phenyl)cyclopropyl)thiazolo[5,4-b]pyridine-2-yl)-3-fluorobenzaldehyde (0.224 g, 0.466 mmol) and methyl azetidine-3-carboxylate hydrochloride (0.177 g, 1.17 mmol) according to the general procedure for reductive amination to give methyl 1-(4-(5-(1-(4-(benzyloxy)phenyl)cyclopropyl)-thiazolo[5,4-b]pyridine-2-yl)-3-fluorobenzyl)azetidine-3-carboxylate as a yellow solid. MS (ESI) m/z: calculated: 579.2; Observed: 580.1 (M++1).

reactant | 4-(5-(1-(4-(benzyloxy)phenyl)cyclopropyl)thiazolo[5,4-b]pyridine-2-yl)-3-fluorobenzaldehyde | 0.466 mmol, 0.224 g | C(C1=CC=CC=C1)OC1=CC=C(C=C1)C1(CC1)C1=CC=C2C(=N1)SC(=N2)C2=C(C=C(C=O)C=C2)F | C29H21FN2O2S
reactant | methyl azetidine-3-carboxylate hydrochloride | 1.17 mmol, 0.177 g | Cl.N1CC(C1)C(=O)OC
product | methyl 1-(4-(5-(1-(4-(benzyloxy)phenyl)cyclopropyl)-thiazolo[5,4-b]pyridine-2-yl)-3-fluorobenzyl)azetidine-3-carboxylate | C(C1=CC=CC=C1)OC1=CC=C(C=C1)C1(CC1)C1=CC=C2C(=N1)SC(=N2)C2=C(C=C(CN1CC(C1)C(=O)OC)C=C2)F | C34H30FN3O3S
